US07872128B2
Step 4: methyl-6-chloro-3-(chloro(hydroxyimino)methyl)-2-fluorobenzoate
To a solution of methyl-6-chloro-2-fluoro-3-((hydroxyimino)methyl)benzoate (553 mg, 2388 μmol) in DMF (5.3 ml) at 0° C. was added N-chlorosuccinimide (351 mg, 2626 μmol). The mixture was heated to 50° C. for 10 min after which time LCMS analysis indicated the reaction was complete. The mixture was cooled to RT, water was added followed by EtOAc, the layers were separated, and the aqueous was extracted with EtOAc (3×). The combined organic layers were washed with brine (2×), dried over MgSO4, filtered and concentrated to yield the title compound as a yellow viscous oil, which solidified under reduced pressure.

reactant | methyl-6-chloro-2-fluoro-3-((hydroxyimino)methyl)benzoate | 2388 μmol, 553 mg | COC(C1=C(C(=CC=C1Cl)C=NO)F)=O | C9H7ClFNO3
reactant | N-chlorosuccinimide | 2626 μmol, 351 mg | ClN1C(CCC1=O)=O | C4H4ClNO2
reactant | water | O | H2O
reactant | EtOAc | CCOC(=O)C | C4H8O2
solvent | DMF | 5.3 ml | CN(C)C=O | C3H7NO
product | methyl-6-chloro-3-(chloro(hydroxyimino)methyl)-2-fluorobenzoate | COC(C1=C(C(=CC=C1Cl)C(=NO)Cl)F)=O | C9H6Cl2FNO3
